US08790621B2
4-(Dodecyloxy)benzyltripropargylammonium bromide (1).
Tripropargylamine (0.85 mL, 9 mmol) in acetone (6 mL) was slowly added to a solution of 4-(dodecyloxy)benzyl bromide (3.01 g, 8.5 mmol) in acetone (10 mL). After 3 d at room temperature, acetone was removed in vacuo and the residue purified by column chromatography over silica gel with CH2Cl2/MeOH=20/1 to 10/1 as the eluents to give a white powder (2.1 g, 61%). 1H NMR (400 MHz, CDCl3, δ): 7.56 (d, J=8.4 Hz, 2H), 7.08 (d, J=8.4 Hz, 2H), 4.62 (s, 2H), 4.32 (s, 6H), 4.22 (s, 3H), 4.02 (t, J=6.4 Hz, 2H), 1.73-1.68 (m, 2H), 1.40-1.24 (m, 18H), 0.87 (t, J=5.6 Hz, 3H); 13C NMR (100 MHz, CDCl3, δ) 161.6, 134.2, 130.4, 117.2, 115.5, 114.7, 76.6, 75.3, 68.3, 68.0, 63.5, 49.7, 41.9, 29.6, 29.4, 29.3, 29.1, 26, 22.7, 14.1; ESI-MS (m/z): [M−Br]+ calcd for C28H40NO+ 406, found 406.

reactant | Tripropargylamine | 9 mmol, 0.85 mL | C(C#C)N(CC#C)CC#C | C9H9N
reactant | 4-(dodecyloxy)benzyl bromide | 8.5 mmol, 3.01 g | C(CCCCCCCCCCC)OC1=CC=C(CBr)C=C1 | C19H31BrO
solvent | acetone | 6 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-(Dodecyloxy)benzyltripropargylammonium bromide | 2.1 g, 61% | [Br-].C(CCCCCCCCCCC)OC1=CC=C(C[N+](CC#C)(CC#C)CC#C)C=C1 | InChI=1S/C28H40NO.BrH/c1-5-9-10-11-12-13-14-15-16-17-25-30-28-20-18-27(19-21-28)26-29(22-6-2,23-7-3)24-8-4;/h2-4,18-21H,5,9-17,22-26H2,1H3;1H/q+1;/p-1
